US06326369B1
2,3-Dimethoxy-7-[2-(4-methylphenoxy)ethyl]-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione
To a solution of 7-(2-hydroxyethyl)-2,3-dimethoxy-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione (103 mg), p-cresol (118 mg) and triphenylphosphine (121 mg) in THF (2 ml) was added a solution of diethyl azodicarboxylate (87 mg) in THF (1 ml) at room temperature. The reaction mixture was stirred at room temperature for 2 hr and then concentrated in vacuo. The residue was purified by alumina column chromatography (ethyl acetate:hexane=1:10) and then with recrystallization from duisopropylether-hexane to obtain the entitled compound (80 mg).

reactant | 7-(2-hydroxyethyl)-2,3-dimethoxy-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione | 103 mg | OCCC1CCC2=C(CC1)C(C(=C(C2=O)OC)OC)=O | C15H20O5
reactant | p-cresol | 118 mg | C1=CC(=CC=C1O)C | C7H8O
reactant | triphenylphosphine | 121 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 87 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 2,3-Dimethoxy-7-[2-(4-methylphenoxy)ethyl]-4,5,6,7,8,9-hexahydro-1H-benzo[a]cycloheptene-1,4-dione | 80 mg | COC1=C(C(C2=C(CCC(CC2)CCOC2=CC=C(C=C2)C)C1=O)=O)OC | C22H26O5
